US07132425B2
A solution of dimethyl-(6-nitro-pyrazin-3-yl)-amine (1.27 g, 7.55 mmol) in ethanol (90 mL) was treated with 10% palladium on activated carbon (0.40 g). The reaction mixture was stirred under a positive pressure of hydrogen gas (balloon) at 25° C. and atmospheric pressure overnight. The catalyst was then filtered off through a pad of celite, and the celite pad was washed well with ethanol. The filtrate was concentrated in vacuo, and the resulting black-orange solid was triturated with petroleum ether to afford N5,N5-dimethyl-pyrazine-2,5-diamine (0.78 g, 75%) as a black solid: mp 71.5–74.2° C.; EI-HRMS m/e calcd for C6H10N4 (M+) 138.0905, found 138.0903.

reactant | dimethyl-(6-nitro-pyrazin-3-yl)-amine | 7.55 mmol, 1.27 g | CN(C=1C=NC(=CN1)[N+](=O)[O-])C | C6H8N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.40 g | [Pd] | Pd
product | N5,N5-dimethyl-pyrazine-2,5-diamine | 0.78 g, 75% | CN(C=1N=CC(=NC1)N)C | C6H10N4
